US05017724
7.99 Grams of hydroxylamine hydrochloride was added to a solution prepared by dissolving 17.22 g of 5,7-dimethyl-8-hydroxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone in 100 ml of pyridine and the mixture was refluxed under heating for 2 hours. Pyridine was distilled off under reduced pressure and the resulting residue was extracted with 300 ml of chloroform. The extract was washed with water 1% hydrochloric acid and then with saturated aqueous sodium chloride solution and then dried with anhydrous magnesium sulfate. After the solvent was distilled off, the product was recrystallized from ethanol to obtain 11.56 g of 5,7-dimethyl-8-hydroxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone oxime as a mixture of syn-isomer and anti-isomer.

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | 5,7-dimethyl-8-hydroxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 17.22 g | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)O)=O | C15H18O2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5,7-dimethyl-8-hydroxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone oxime | 11.56 g | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)O)=NO | C15H19NO2
